US07414060B2
6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide
The title compound, light brown solid, MS (ISP): m/e=327.0 (M+H+), was prepared from 3-Amino-6-methyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide in accordance with the general method of example 20 using 5-bromopyrimidine instead of 3-bromo-pyridine.

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC=C1N)C | C11H12N4OS
reactant | 5-bromopyrimidine | BrC=1C=NC=NC1 | C4H3BrN2
product | 6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C | C15H14N6OS
